US07872033B2
ethyl [(5Z)-4-butyl-2-tert-butylisothiazol-5(2H)-ylidene]carbamate
To a solution of hexanal (Aldrich, 20.0 g, 200 mmol) in acetonitrile (20 mL) in a 100-mL, round-bottomed flask containing molecular sieves (10 g) was added neat t-butylamine (Aldrich, 16.1 g, 220 mmol). The mixture was stirred at room temperature overnight. The solids were removed by vacuum filtration through a glass frit and the liquor was concentrated by rotary evaporator to give the crude imine as a pale yellow oil. The crude imine was dissolved in anhydrous tetrahydrofuran (200 mL) containing pyridine (Aldrich, 15.8 g, 200 mmol) and O-ethyl carbonisothiocyanatidate (Aldrich, 15.7 g, 120 mmol) was added dropwise. The resulting yellow mixture was stirred at room temperature for 1 hour. Anhydrous methanol (100 mL) and iodine (Aldrich, 30.5 g, 120 mmol) were added to form a brown slurry. The mixture was stirred at room temperature for 2 hours. The excess iodine was quenched by addition of solid sodium metabisulfite until the mixture changed to yellow. Saturated aqueous sodium bicarbonate solution was added and the mixture was stirred at room temperature for 15 minutes. The mixture was extracted with dichloromethane (3×75 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated by rotary evaporator to give a brown oil. The product was purified by flash chromatography (silica gel: 25-95% ethyl acetate in hexanes) to afford 31.6 g (56%) of the title compound. 1H NMR (DMSO-d6) δ 0.90 (t, J=7.3 Hz, 3H), 1.22 (t, J=7.1 Hz, 3H), 1.23-1.36 (m, 2H), 1.50-1.60 (m, 2H), 1.55 (s, 9H), 2.51 (t, J=7.5 Hz, 2H), 4.10 (q. J=7.1 Hz, 2H), 8.45 (s, 1H); MS (ESI+) m/z 285 (M+H)+.

reactant | hexanal | 200 mmol, 20.0 g | C(CCCCC)=O | C6H12O
reactant | t-butylamine | 220 mmol, 16.1 g | C(C)(C)(C)N | C4H11N
reactant | pyridine | 200 mmol, 15.8 g | N1=CC=CC=C1 | C5H5N
reactant | O-ethyl carbonisothiocyanatidate | 120 mmol, 15.7 g | C(OCC)(=O)N=C=S | C4H5NO2S
reactant | iodine | 120 mmol, 30.5 g | II | I2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | ethyl [(5Z)-4-butyl-2-tert-butylisothiazol-5(2H)-ylidene]carbamate | 31.6 g, 56% | C(CCC)C/1=CN(S\C1=N/C(OCC)=O)C(C)(C)C | C14H24N2O2S
